US07745414B2
1-Bromo-4-cyano-3-(4-methoxy-benzyl)-benzene
A mixture of 25 g of ethyl (4-methoxy-phenyl)-acetate, 27.4 g of 1-bromo-4-cyano-3-fluoro-benzene and 20 mL of N-methyl-pyrrolidin-2-one is slowly added to 31.4 g of potassium tert butoxide in 130 mL of N-methyl-pyrrolidin-2-one keeping the temperature below 10° C. After stirring for 1 hour at room temperature, 100 mL of methanol and 137 mL of 1 M aqueous sodium hydroxide are added and the mixture is stirred overnight at room temperature. The methanol fraction is evaporated, the residue is basified with 1 M aqueous sodium hydroxide and extracted with tert butyl-methyl ether. The aqueous phase is acidified with 4 M hydrochloric acid and extracted with ethyl acetate several times. The combined ethyl acetate extracts are evaporated and the residue together with 120 mL of N,N-dimethyl formamide and 24.9 g of potassium carbonate heated at 100° C. for 1 hour. The reaction mixture is diluted with aqueous sodium bicarbonate and extracted several times with ethyl acetate. The combined extracts are evaporated and the residue crystallized from methanol.

reactant | ethyl (4-methoxy-phenyl)-acetate | 25 g | COC1=CC=C(C=C1)CC(=O)OCC | C11H14O3
reactant | 1-bromo-4-cyano-3-fluoro-benzene | 27.4 g | BrC1=CC(=C(C=C1)C#N)F | C7H3BrFN
reactant | potassium tert butoxide | 31.4 g | CC(C)([O-])C.[K+]
reactant | sodium hydroxide | 1 M, 137 mL | [OH-].[Na+]
solvent | N-methyl-pyrrolidin-2-one | 130 mL | CN1C(CCC1)=O | C5H9NO
solvent | N-methyl-pyrrolidin-2-one | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 100 mL | CO | CH4O
product | 1-Bromo-4-cyano-3-(4-methoxy-benzyl)-benzene | BrC1=CC(=C(C=C1)C#N)CC1=CC=C(C=C1)OC | C15H12BrNO
